US07855211B2
4-(6-Amino-pyridin-3-yloxy)-piperidine-1-carboxylic acid tert-butyl ester
Add palladium over carbon 10% (0.6 g) to a suspension of 4-(6-nitro-pyridin-3-yloxy)-piperidine-1-carboxylic acid tert-butyl ester (5.65 g) in a mixture tetrahydrofuran (THF)/methanol (30/30 mL/mL). Hydrogenate in a Parr apparatus at 2 atm overnight. Filter through a celite pad, wash with DCM and methanol. Purify by silica gel column chromatography eluting with DCM/methanol (10%)/ammonia (1%) to afford 5 g of the title compound. MS (ES+): m/z=294 (M+H)+.

reactant | 4-(6-nitro-pyridin-3-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 5.65 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=NC(=CC1)[N+](=O)[O-] | C15H21N3O5
catalyst | palladium | [Pd] | Pd
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(6-Amino-pyridin-3-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=NC(=CC1)N | C15H23N3O3
